US07863441B2
[2-(2-acetamino-phenylsulfanyl)-phenyl-{4(2-(2-acetoxyethoxy)ethyl]piperazin-1-yl}methanone (2 g, 0.0041 mol) was dissolved in POCl3 (5 ml) and stirred at room temperature for 30 min. The mixture was slowly heated to reflux and refluxed for 3 h. Excess of POCl3 was evaporated and water 50 ml and methanol (5 ml) were carefully added to the residue. The mixture was stirred at room temperature until all material was dissolved. The pH of the water was adjusted to 10-11 by addition of NaOH followed by extraction with toluene 2×50 ml. The organic layer was separated and evaporated to give a dark residue of 11-(4-[2-(2-acetyloxy-ethoxy)ethyl]-1-piperazinyl]dibenzo[b,f]-1,4-thiazepine (1.53 g).

reactant | 2-(2-acetamino-phenylsulfanyl)-phenyl-{4(2-(2-acetoxyethoxy)ethyl]piperazin-1-yl}methanone | 0.0041 mol, 2 g | N(C(=O)C)C1=C(C=CC=C1)SC1=C(C=CC=C1)C(=O)N1CCN(CC1)CCOCCOC(C)=O | C25H31N3O5S
solvent | POCl3 | 5 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 11-(4-[2-(2-acetyloxy-ethoxy)ethyl]-1-piperazinyl]dibenzo[b,f]-1,4-thiazepine | 1.53 g | C(C)(=O)OCCOCCN1CCN(CC1)C1=NC2=C(SC3=C1C=CC=C3)C=CC=C2 | C23H27N3O3S
